US08455528B2
Methyl 4-(1-methyl-2-pyridin-2-yl-1H-imidazol-4-yl)benzoate (12.5 g, 42.6 mmol) was dissolved in methylene chloride (120 mL), to which was added NIS (10.6 g, 47 mmol) and 0.5 mL of TFA. After stirring for 5 min, the reaction was diluted with 120 mL of methylene chloride and quenched with aq NaHCO3. The organic layer was separated, washed with aq Na2S2O3, water, brine, dried over MgSO4, filtered, and concentrated to give 16.3 g of methyl 4-(5-iodo-1-methyl-2-pyridin-2-yl-1H-imidazol-4-yl)benzoate. 1H NMR (500 MHz, (CDCl3): 8.63 (m, 1H), 8.24 (d, 1H), 8.18 (s, 4H), 7.83 (m, 1H), 7.31 (m, 1H), 4.22 (s, 3H), 3.96 (s, 3H). LCMS: [M+1]=420.

reactant | Methyl 4-(1-methyl-2-pyridin-2-yl-1H-imidazol-4-yl)benzoate | 42.6 mmol, 12.5 g | CN1C(=NC(=C1)C1=CC=C(C(=O)OC)C=C1)C1=NC=CC=C1 | C17H15N3O2
reactant | NIS | 47 mmol, 10.6 g | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 120 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 120 mL | C(Cl)Cl | CH2Cl2
product | methyl 4-(5-iodo-1-methyl-2-pyridin-2-yl-1H-imidazol-4-yl)benzoate | 16.3 g | IC1=C(N=C(N1C)C1=NC=CC=C1)C1=CC=C(C(=O)OC)C=C1 | C17H14IN3O2
